US05232929
3-(3'-Chloropropyl)-4-phenyl-1-(tert.-butyldimethylsilyl)azetidin-2-one (3.07 gm, 9.0 mmole) was dissolved in 10% methanolic sulfuric acid and refluxed for 16 hours. At the end of this period, the reaction mixture was cooled, the sulfuric acid was neutralized with sodium bicarbonate and the mixture was taken up in ether (2×200 ml). The ethereal solution was washed with water (2×50 ml) and dried (anhyd. magnesium sulfate). Evaporation afforded essentially pure 5-chloro-2-carbomethoxy-1-phenylpent-1-ylamine as an oil (2.11 gms). The 5-chloro-2-carbomethoxy-1-phenylpent-1-ylamine thus obtained was dissolved in the dimethylformamide ("DMF") (20 ml) and sodium iodide (2.11 gm) and sodium bicarbonate (2.11 gm) were added. The resulting mixture was refluxed for 15 min. At the end of this period, the reaction mixture was cooled and taken up in ether (200 ml). The ethereal solution was washed with water (2×50 ml) and dried (anhyd. magnesium sulfate). Evaporation of the ether afforded chromatographically pure cis-methyl 2-phenylpiperidine-3-carboxylate as an oil (1.54 gm, 78%).

reactant | 5-chloro-2-carbomethoxy-1-phenylpent-1-ylamine | ClCCCC(C(C1=CC=CC=C1)N)C(=O)OC | C13H18ClNO2
reactant | sodium iodide | 2.11 gm | [I-].[Na+]
reactant | sodium bicarbonate | 2.11 gm | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ether | 200 ml | CCOCC | C4H10O
product | cis-methyl 2-phenylpiperidine-3-carboxylate | 1.54 gm, 78% | C1(=CC=CC=C1)[C@@H]1NCCC[C@@H]1C(=O)OC | C13H17NO2
